US07211573B2
b) (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-((6R,7S)-6,9-dimethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester
In an inert atmosphere and under exclusion of moisture, a solution of 95 mg (0.34 mmol) of (S)—N-((6R,7S)-6,9-dimethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-2-hydroxy-propionamide in 1 ml of toluene was treated with 0.57 ml (0.41 mmol) of triethylamine and 70.9 mg (0.34 mmol) of 4-nitrophenyl chloroformate at room temperature. After stirring at room temperature during the weekend, 0.374 ml (0.34 mmol) of 2,2,3,3,3-pentafluoropropylamine were added and stirring was continued overnight. The solvent was removed by distillation and the crude product was chromatographed on silica gel using a gradient of a 1:3- to 3:1-mixture of ethyl acetate and heptane as the eluent. There were obtained 28 mg (18% of theory) of the title compound as a colourless oil, MS m/e (%): 454.4 (M+H+, 100).

reactant | (S)—N-((6R,7S)-6,9-dimethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-2-hydroxy-propionamide | 0.34 mmol, 95 mg | C[C@H]1OC2=C(N(C([C@H]1NC([C@H](C)O)=O)=O)C)C=CC=C2 | C14H18N2O4
reactant | triethylamine | 0.41 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 0.34 mmol, 70.9 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2,2,3,3,3-pentafluoropropylamine | 0.34 mmol, 0.374 ml | FC(CN)(C(F)(F)F)F | C3H4F5N
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-((6R,7S)-6,9-dimethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester | C[C@H]1OC2=C(N(C([C@H]1NC(=O)[C@H](C)OC(NCC(C(F)(F)F)(F)F)=O)=O)C)C=CC=C2 | C18H20F5N3O5
